US07217723B2
3-Amino-2-bromo-5,6-dihydro-4H-benzo[b]thiophene-7-one hydrochloride
To a suspension of 3-Amino-5,6-dihydro-4H-benzo[b]thiophene-7-one hydrochloride (the compound of Preparation Example 6) (1.2 g) in N,N-dimethylformamide (33 mL) was added 1.05 g of N-bromosuccinimide (1.05 g) on an ice bath. After stirring for 30 minutes, the solvent was evaporated at reduced pressure, the pH was adjusted to 10 with an aqueous solution of sodium bicarbonate. After extracting with ethyl acetate, and washing the organic layer with water, drying with anhydrous magnesium sulfate was carried out and the solvent was evaporated at reduced pressure. The residue was dissolved in ethyl acetate, and the pH was brought to 1 by adding 4N hydrochloric acid/ethyl acetate. The resulting solid was collected by filtration, washed with ethyl acetate to provide the title compound (1.55 g) as an ocher solid.

reactant | 3-Amino-5,6-dihydro-4H-benzo[b]thiophene-7-one hydrochloride | Cl.NC=1C2=C(SC1)C(CCC2)=O
reactant | N-bromosuccinimide | 1.05 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | N,N-dimethylformamide | 33 mL | CN(C=O)C | C3H7NO
product | 3-Amino-2-bromo-5,6-dihydro-4H-benzo[b]thiophene-7-one hydrochloride | 1.55 g | Cl.NC=1C2=C(SC1Br)C(CCC2)=O | InChI=1S/C8H8BrNOS.ClH/c9-8-6(10)4-2-1-3-5(11)7(4)12-8;/h1-3,10H2;1H
